US07078405B2
N-[8-Bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-yl]-N,N-dipropylamine (50 mg) was dissolved in a mixed solvent of 1,2-dimethoxyethane (6 mL) and water (1 mL). 2,4-Dichlorobenzeneboronic acid (53 mg), barium hydroxide octahydrate (88 mg) and tetrakistriphenylphosphine palladium complex (16 mg) were added thereto, and the mixture was heated under reflux for 2 hours under nitrogen atmosphere. After being allowed to cool, the reaction mixture was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:9) to give N-[8-(2,4-dichlorophenyl)-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-yl]-N,N-dipropylamine (43 mg) as a pale yellow oil.

reactant | N-[8-Bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-yl]-N,N-dipropylamine | 50 mg | BrC=1C=2N(C=C(C1)C)C(=C(N2)SC)N(CCC)CCC | C15H22BrN3S
reactant | 2,4-Dichlorobenzeneboronic acid | 53 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | barium hydroxide octahydrate | 88 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | 1,2-dimethoxyethane | 6 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
product | N-[8-(2,4-dichlorophenyl)-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-yl]-N,N-dipropylamine | 43 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=C(C1)C)C(=C(N2)SC)N(CCC)CCC | C21H25Cl2N3S
